US07553873B2
Step A: 2-[4-(pyrimidin-2-ylamino)-benzoylamino]-pentanedioic acid diethyl ester
2-Chloropyrimidine (0.72 g, 6.3 mmol) and N-(4-aminobenzoyl)-L-glutamic acid diethyl ester (2.04 g, 6.3 mmol, 1 equiv.) were dissolved in DMF (4 mL) and the resulting mixture was heated to 110° C. for 3 hrs. Reaction was complete as determined by TLC. The mixture was cooled to room temperature and partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over MgSO4, and concentrated by rotavap. The residue was purified by column chromatography (silica gel, 50% EtOAc/hexane) to afford 1.75 g of desired product 2-[4-(pyrimidin-2-ylamino)-benzoylamino]-pentanedioic acid diethyl ester in 69% yield. MS (ESI) m/z 399.

reactant | 2-Chloropyrimidine | 6.3 mmol, 0.72 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | N-(4-aminobenzoyl)-L-glutamic acid diethyl ester | 6.3 mmol, 2.04 g, 1 equiv. | C(C)OC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCC(=O)OCC)=O | C16H22N2O5
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | 2-[4-(pyrimidin-2-ylamino)-benzoylamino]-pentanedioic acid diethyl ester | 1.75 g, 69% yield | C(C)OC(C(CCC(=O)OCC)NC(C1=CC=C(C=C1)NC1=NC=CC=N1)=O)=O | C20H24N4O5
